US04387059
A reaction mixture comprising 17.5 g of 8-[4-(4-nitro-2-sulfobenzamido)-2-sulfobenzamido]-1,3,6-naphthalenetrisulfonic acid, pentasodium salt, 1.0 g of 10% palladium on carbon catalyst and 100 ml of water was hydrogenated in a Parr shaker for one hour and then filtered through diatomaceous earth. The filtrate was concentrated to about 65 ml and then poured with vigorous stirring into 500 ml of absolute ethanol. The granular precipitate was collected by filtration, washed with ethanol, then ether and dried for three days at 110° C., giving 8-[4-(4-amino-2-sulfobenzamido)-2-sulfobenzamido]-1,3,6-naphthalenetrisulfonic acid, pentasodium salt.

reactant | 8-[4-(4-nitro-2-sulfobenzamido)-2-sulfobenzamido]-1,3,6-naphthalenetrisulfonic acid | 17.5 g | [N+](=O)([O-])C1=CC(=C(C(=O)NC2=CC(=C(C(=O)NC=3C=C(C=C4C=C(C=C(C34)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O)C=C2)S(=O)(=O)O)C=C1)S(=O)(=O)O | C24H17N3O19S5
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | water | 100 ml | O | H2O
product | 8-[4-(4-amino-2-sulfobenzamido)-2-sulfobenzamido]-1,3,6-naphthalenetrisulfonic acid | NC1=CC(=C(C(=O)NC2=CC(=C(C(=O)NC=3C=C(C=C4C=C(C=C(C34)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O)C=C2)S(=O)(=O)O)C=C1)S(=O)(=O)O | C24H19N3O17S5
